US07825265B2
Mesitylmagnesium bromide (18.0 mL, 18.0 mmol, 1.0 M in THF) was added over 15 minutes to a solution of cycloheptanone (2.0 g, 17.8 mmol) and diphenyl chlorophosphate (1.1 eq.) in THF (5 mL) at 0° C. The solution was stirred at 0° C. for 30 min, whereafter the solution was allowed to reach room temperature. After stirring the solution for 30 min, dichlorobis(triphenylphosphine)palladium (126 mg, 1 mol %) was added and the solution was warmed to 65° C. Phenylmagnesium chloride (10.8 mL, 1.2 equivalents in THF) was added over 10 minutes, resulting in a gentle reflux of the solvent. After stirring at 65° C. for 30 minutes, the mixture was cooled to rt and poured into a mixture of 3 N HCl (30 mL) and pentane (30 mL). The phases were separated, and the aqueous portion was extracted with pentane (30 mL). The combined organic phase was washed sequentially with 3 N HCl (20 mL), 3 M NaOH (2×20 mL), and brine (20 mL), and dried over MgSO4. Evaporation of the solvent followed by distillation using a Kugelrohr apparatus (oven temperature 100-140° C., 0.065 torr) yielded 1-phenylcycloheptene (1.29 g, 43%).

reactant | Mesitylmagnesium bromide | 18.0 mmol, 1.0 M, 18.0 mL | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | cycloheptanone | 17.8 mmol, 2.0 g | C1(CCCCCC1)=O | C7H12O
reactant | diphenyl chlorophosphate | 1.1 eq. | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | Phenylmagnesium chloride | 10.8 mL, 1.2 equivalents | C1(=CC=CC=C1)[Mg]Cl
reactant | HCl | 3 N, 30 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 126 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | pentane | 30 mL | CCCCC | C5H12
product | 1-phenylcycloheptene | 1.29 g, 43% | C1(=CC=CC=C1)C1=CCCCCC1 | C13H16
